US07132425B2
A solution of molten acetamide (2.36 g, 40.0 mmol) heated to 90° C. was treated with a mixture of 5-bromo-2-nitropyridine (2.0 g, 9.85 mmol), methanesulfonamide (2.81 g, 29.55 mmol), and potassium carbonate (3.43 g, 24.8 mmol). The resulting mixture was quickly brought to 145° C. The resulting solution was stirred at 145° C. for 30 min. At this time, the reaction was cooled to 25° C. and then was treated with water (8 mL). This solution was cooled to 0° C. and then was treated with a 1N aqueous hydrochloric acid solution until the pH of the solution was adjusted to pH=8. The precipitate which resulted was removed by filtration. The filtrate was adjusted to pH=4 by the addition of a 1N aqueous hydrochloric acid solution. The resulting precipitate was collected and dried in vacuo to afford N-(6-nitro-pyridin-3-yl)-methanesulfonamide (1.46 g, 68%) as a white solid: mp 187–189° C.; (ES)−-HRMS m/e calcd for C6H7N3O4S (M−H)− 216.0084, found 216.0085.

reactant | acetamide | 40.0 mmol, 2.36 g | C(C)(=O)N | C2H5NO
reactant | 5-bromo-2-nitropyridine | 9.85 mmol, 2.0 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | methanesulfonamide | 29.55 mmol, 2.81 g | CS(=O)(=O)N | CH5NO2S
reactant | potassium carbonate | 24.8 mmol, 3.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 8 mL | O | H2O
product | N-(6-nitro-pyridin-3-yl)-methanesulfonamide | 1.46 g, 68% | [N+](=O)([O-])C1=CC=C(C=N1)NS(=O)(=O)C | C6H7N3O4S
